US07514419B2
A mixture of 2-(4-fluorobenzyl)phenol (4.51 gm, 22.41 mmol), DMF (60 mL), potassium carbonate (7.78 gm, 56.02 mmol) and methyl iodine (1.67 mL, 26.81 mmol) was stirred at rt for 16 h. The reaction was poured into 150 mL ethyl acetate, filtered, washed 3× with 50 mL H20, 1× with 100 m]L brine, dried over Na2SO4, filtered and concentrated under reduced pressure to afford 2-(4-fluorobenzyl)anisole (4.27 gm, 88%); 1H NMR (200 MHz, DMSO-d6): δ 7.11(m, 7H), 3.88(s, 2H), 3.76(s, 3H); TLC conditions: Uniplate silica gel, 250 microns; methylene chloride-hexanes (1:1); Rf=0.64.

reactant | 2-(4-fluorobenzyl)phenol | 22.41 mmol, 4.51 gm | FC1=CC=C(CC2=C(C=CC=C2)O)C=C1 | C13H11FO
reactant | DMF | 60 mL | CN(C)C=O | C3H7NO
reactant | potassium carbonate | 56.02 mmol, 7.78 gm | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodine | 26.81 mmol, 1.67 mL | CI | CH3I
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 2-(4-fluorobenzyl)anisole | 4.27 gm, 88% | FC1=CC=C(CC2=C(C=CC=C2)OC)C=C1 | C14H13FO
